US07368578B2
A mixture of methyl 5-formyl-2-methylbenzoate (2.10 g), 2,3-butanedione-2-oxime (1.19 g) and 4N hydrogenchloride-ethyl acetate (50 mL) was stirred at room temperature for 3 days. The reaction mixture was concentrated, diethyl ether was added to the residue to allow precipitation of crystals, and crystals were collected by filtration. A mixture of the obtained crystal, tetrahydrofuran (50 mL) and thionyl chloride (2.11 g) was heated under reflux for 2 hrs. The reaction mixture was concentrated and ethyl acetate was added to the residue. The ethyl acetate layer was washed successively with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The obtained residue was subjected to silica gel column chromatography to give methyl 5-(4-chloromethyl-5-methyl-1,3-oxazol-2-yl)-2-methylbenzoate as colorless crystals (1.34 g, yield 41%) from a fraction eluted with ethyl acetate-hexane (1:9, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 89-90° C.

reactant | methyl 5-formyl-2-methylbenzoate | 2.10 g | C(=O)C=1C=CC(=C(C(=O)OC)C1)C | C10H10O3
reactant | 2,3-butanedione-2-oxime | 1.19 g | CC(C(C)=O)=NO | C4H7NO2
reactant | hydrogenchloride ethyl acetate | 4N, 50 mL | Cl.C(C)(=O)OCC
product | methyl 5-(4-chloromethyl-5-methyl-1,3-oxazol-2-yl)-2-methylbenzoate | 1.34 g, yield 41% | ClCC=1N=C(OC1C)C=1C=CC(=C(C(=O)OC)C1)C | C14H14ClNO3
